US05747499
(6) 6-Bromo-2-methyl-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]-quinazolin-4-one
A mixture of 2-methyl-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]-quinazolin-4-one (50 g), N-bromosuccinimide (31.2 g), benzoyl peroxide (0.1 g) and carbon tetrachloride (500 ml) was stirred and heated to reflux for 90 minutes. The mixture was cooled to 0° C. The mixture was filtered and the filtrate was evaporated. The residue was triturated under diethyl ether (400 ml). The mixture was cooled to 0° C. The precipitate was isolated, washed with diethyl ether and dried. The solid so obtained was purified by column chromatography using a 1:1 mixture of hexane and ethyl acetate as eluant. There was thus obtained 6-bromo-2-methyl-3-pivaloyloxy-methyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]quinazolin-4-one (21 g), m.p. 98° C. (decomposes);

reactant | 2-methyl-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]-quinazolin-4-one | 50 g | CC1=NC2=CC3=C(C=C2C(N1COC(C(C)(C)C)=O)=O)CCC3 | C18H22N2O3
reactant | N-bromosuccinimide | 31.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 6-Bromo-2-methyl-3-pivaloyloxymethyl-3,4,7,8-tetrahydro-6H-cyclopenta[g]-quinazolin-4-one | BrC1CCC2=C1C=C1C(N(C(=NC1=C2)C)COC(C(C)(C)C)=O)=O | C18H21BrN2O3
